* Z:\mnt\design.r\spice\examples\3009-1.8.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1µ
Rload OUT 0 180
XU1 IN OUT MP_01 0 IN LT3009-1.8
.tran 1
.lib LT3009.lib
.backanno
.end
